US06921759B2
Step 3: Preparation of 8-hydroxy-5-(3-hydroxy-prop-1-ynyl)-[1,6]naphthyridine-7-carboxylic acid
To a solution of 5-(3-hydroxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester (1.00 g, 2.76 mmol) in THF (14 mL) and water (14 mL) was added 1N NaOH (13.8 mL, 13.8 mmol) and the solution was stirred at 50° C. overnight. The THF was removed under reduced pressure and the remaining solution was acidified with 6N HCl to a pH=3. Injected the solution directly onto the Gilson auto-prep running a 95-50% H2O (0.1% TFA)/CH3CN (0.09% TFA) gradient over 35 minutes to obtain the desired compound as a bright yellow solid.

reactant | 5-(3-hydroxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester | 2.76 mmol, 1.00 g | COC(=O)C1=NC(=C2C=CC=NC2=C1OC(=O)C1=CC=CC=C1)C#CCO | C20H14N2O5
reactant | NaOH | 13.8 mmol, 1N, 13.8 mL | [OH-].[Na+]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | water | 14 mL | O | H2O
product | 8-hydroxy-5-(3-hydroxy-prop-1-ynyl)-[1,6]naphthyridine-7-carboxylic acid | OC=1C(=NC(=C2C=CC=NC12)C#CCO)C(=O)O | C12H8N2O4
